US07893074B2
Preparation of 2-(2-chloro-5-nitro-pyrimidin-4-ylamino)-N-methyl-benzenesulfonamide
2,4-Dichloro-5-nitro-pyrimidine (1.94 g, 10 mmol) and 2-amino-N-methyl-benzenesulfonamide (1.86 g, 10 mmol) are dissolved in CHCl3 (30 mL). The reaction mixture is heated at 61° C. for 2 h. The solvent is evaporated and the residue is washed with ether to give the title product.

reactant | 2,4-Dichloro-5-nitro-pyrimidine | 10 mmol, 1.94 g | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | 2-amino-N-methyl-benzenesulfonamide | 10 mmol, 1.86 g | NC1=C(C=CC=C1)S(=O)(=O)NC | C7H10N2O2S
solvent | CHCl3 | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-chloro-5-nitro-pyrimidin-4-ylamino)-N-methyl-benzenesulfonamide | ClC1=NC=C(C(=N1)NC1=C(C=CC=C1)S(=O)(=O)NC)[N+](=O)[O-] | C11H10ClN5O4S
